US07109192B2
3e) 2-Mercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one
A suspension of 5.0 g (39.96 mmol) of 3,4-diamino-2-hydroxypyridine and 12.82 g (80.0 mmol) of potassium-ethyl xanthogenate in 100 ml of ethanol was refluxed for three hours. The mixture was then cooled to ambient temperature and combined with approx. 20 ml of diethyl ether. The precipitated product was filtered off, washed with approx. 10 ml of diethyl ether, dried, dissolved in approx. 30 ml of water and this solution was acidified with concentrated hydrochloric acid. The product precipitated was suction filtered, washed with 15 ml of water and dried at 50° C.

reactant | 3,4-diamino-2-hydroxypyridine | 39.96 mmol, 5.0 g | NC=1C(=NC=CC1N)O | C5H7N3O
reactant | potassium ethyl xanthogenate | 80.0 mmol, 12.82 g | [K].CCOC(=S)S
reactant | diethyl ether | approx. 20 ml | C(C)OCC | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Mercapto-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | SC1=NC2=C(C(NC=C2)=O)N1 | C6H5N3OS
